US05298652
Sodium hydroxide hydrolysis of N-(2-ethoxy-2-oxoethyl)-N-[3-[3-(phenoxy)propoxy]-5-(octadecyloxy)benzoyl]glycine ethyl ester as in Example 11 gave N-(carboxymethyl)-N-[3-[3-(phenoxy)propoxy]-5-(octadecyloxy)benzoyl]glycine, mp 86°-90°.

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | N-(2-ethoxy-2-oxoethyl)-N-[3-[3-(phenoxy)propoxy]-5-(octadecyloxy)benzoyl]glycine ethyl ester | C(C)OC(CN(C(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCOC1=CC=CC=C1)=O)CC(=O)OCC)=O | C42H65NO8
product | N-(carboxymethyl)-N-[3-[3-(phenoxy)propoxy]-5-(octadecyloxy)benzoyl]glycine | C(=O)(O)CN(CC(=O)O)C(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCOC1=CC=CC=C1)=O | C38H57NO8
